US08835428B2
Step 1: 3-(4-Nitro-phenyl)-isoxazol-5-carboxylic acid ethyl ester
To a solution of N-hydroxy-4-nitro-benzimidoyl chloride (2.0 g; 10 mmol) and ethyl propiolate (2.02 ml; 20 mmol) in toluene (25 ml) was added Et3N (1.46 ml; 10.5 mmol) drop wise for 10 minutes. The resulting reaction mixture was heated at 80° C. for 2.5 hours, and then diluted with EtOAc (50 ml) and transferred in a separating funnel. The EtOAc layer was washed with 0.1N HCl (10 ml) followed by water (3×10 ml) and brine (10 ml). The EtOAc layer was dried over anhydrous Na2SO4, solvent was evaporated and the residue was crystallized from CHCl3 and light petroleum to afford the title compound of step 1 (1.35 g; 51.7%). Mass (ES+), 263 (M++1); 1H NMR (CDCl3) δ: 1.45 (t, 3H), 4.48 (q, 2H), 7.26 (s, 1H), 8.02 (d, 2H), 8.35 (d, 2H).

reactant | N-hydroxy-4-nitro-benzimidoyl chloride | 10 mmol, 2.0 g | ON=C(C1=CC=C(C=C1)[N+](=O)[O-])Cl | C7H5ClN2O3
reactant | ethyl propiolate | 20 mmol, 2.02 ml | C(C#C)(=O)OCC | C5H6O2
reactant | Et3N | 10.5 mmol, 1.46 ml | CCN(CC)CC | C6H15N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 3-(4-Nitro-phenyl)-isoxazol-5-carboxylic acid ethyl ester | 1.35 g, 51.7% | C(C)OC(=O)C1=CC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H10N2O5
